* 1-to-1/16th down-scaling current mirror

m0 inc inc 0 0 nch w=1u l=1u

m16 out inc n1 0  nch w=1u l=1u
m15 n1 inc n2 0 nch w=1u l=1u
m14 n2 inc n3 0 nch w=1u l=1u
m13 n3 inc n4 0 nch w=1u l=1u
m12 n4 inc n5 0 nch w=1u l=1u
m11 n5 inc n6 0 nch w=1u l=1u
m10 n6 inc n7 0 nch w=1u l=1u
m9 n7 inc n8 0 nch w=1u l=1u
m8 n8 inc n9 0 nch w=1u l=1u
m7 n9 inc n10 0 nch w=1u l=1u
m6 n10 inc n11 0 nch w=1u l=1u
m5 n11 inc n12 0 nch w=1u l=1u
m4 n12 inc n13 0 nch w=1u l=1u
m3 n13 inc n14 0 nch w=1u l=1u
m2 n14 inc n15 0 nch w=1u l=1u
m1 n15 inc 0 0 nch w=1u l=1u

i1 0 inc type=idc idc=16e-6
v1 out 0 type=vdc vdc=5

.model ekv nch TYPE=n VTO=.4 KP=400e-6

.op
.dc source=i1 start=0 stop=100u step=2u
